US05994025
The thus obtained acetoxyethylvinylether by 19.5 grams (0.15 mols) and methacrylic acid by 15.5 grams (0.18 mols) were dissolved into methylene chloride. Then, 0.38 grams (0.0015 mols) of p-toluenesulfonic acid pyridine salt was added into the mixture, and stirred for complete dissolution. The resultant mixture is stood at room temperature for 6 hours. Then, the mixture was washed three times with 2.5% aqueous sodium hydroxide, and six times with water. Then, the resultant mixture was dehydrated with magnesium sulfate. After filtering magnesium sulfate out, solvent was removed by means of an evaporator. Then, the resultant residue was distilled under reduced pressure, thereby there was obtained 29.6 grams of acetoxyethoxyethylvinylether (b.p. 100-105° C./0.07 mmHg). The yield was 93%.

reactant | acetoxyethylvinylether | C(C)(=O)OCCOC=C | C6H10O3
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | p-toluenesulfonic acid pyridine salt | 0.0015 mols, 0.38 grams | N1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | acetoxyethoxyethylvinylether | 29.6 grams, yield was 93% | C(C)(=O)OCCOCCOC=C | C8H14O4
